data/my_data/train.txt
[O-:1][C:2]([NH:3][CH:4]1[CH2:5][CH2:6][CH2:7][CH2:8][CH2:9]1)=[NH+:10][CH:11]1[CH2:12][CH2:13][CH2:14][CH2:15][CH2:16]1.O=C(Nc1cnc2ccccc2c1)C1CCN(c2cccc(-c3ccccc3)c2)CC1>>[O:1]=[C:2]([NH:3][CH:4]1[CH2:5][CH2:6][CH2:7][CH2:8][CH2:9]1)[NH:10][CH:11]1[CH2:12][CH2:13][CH2:14][CH2:15][CH2:16]1.O=C(Nc1cnc2ccccc2c1)C1CCN(c2cccc(-c3ccccc3)c2)CC1
[CH3:7][CH:8]([CH3:9])[O:10][CH2:11][CH2:12][OH:13].[O:1]=[C:2]([Cl:3])[CH:4]1[CH2:6][CH2:5]1.[H-:14].[Na+:15]>>[O:1]=[C:2]([Cl:3])[CH:4]1[CH2:5][CH2:6]1.[CH3:7][CH:8]([CH3:9])[O:10][CH2:11][CH2:12][O-:13].[HH:14].[Na+:15]
[CH3:1][O:2][C:3](=[O:4])[CH2:5][c:6]1[cH:7][c:8]2[c:9]([c:10]([N+:11](=[O:12])[OH:13])[cH:14]1)[N:15]([C:16]([CH3:17])=[O:18])[CH2:19][CH2:20]2.[OH3+:21].O>>[CH3:1][O:2][C:3](=[O:4])[CH2:5][c:6]1[cH:7][c:8]2[c:9]([c:10]([N+:11](=[O:12])[OH:13])[cH:14]1)[N:15]([C:16]([CH3:17])=[OH+:18])[CH2:19][CH2:20]2.[OH2:21].O
[O:1]=[C:2]1[NH:3][CH2:4][CH2:5][c:6]2[c:7]1[cH:8][nH:9][c:10]2[CH:11]([O-:12])[CH:13]1[C:14](=[O:15])[NH:16][c:17]2[cH:18][cH:19][c:20]([F:21])[cH:22][c:23]21.[OH2:24]>>[O:1]=[C:2]1[NH:3][CH2:4][CH2:5][c:6]2[c:7]1[cH:8][nH:9][c:10]2[CH:11]([OH:12])[CH:13]1[C:14](=[O:15])[NH:16][c:17]2[cH:18][cH:19][c:20]([F:21])[cH:22][c:23]21.[OH-:24]
[CH3:15][O:14][c:13]1[cH:12][cH:11][c:9]([Cl:10])[cH:8][c:7]1[CH2:6][C:3](=[O:4])[Cl:5].[CH3:1][NH2:2]>>[CH3:1][NH2+:2][C:3]([O-:4])([Cl:5])[CH2:6][c:7]1[cH:8][c:9]([Cl:10])[cH:11][cH:12][c:13]1[O:14][CH3:15]
[O-:1][C:2](=[NH+:3][CH:4]1[CH2:5][CH2:6][CH2:7][CH2:8][CH2:9]1)[NH:10][CH:11]1[CH2:12][CH2:13][CH2:14][CH2:15][CH2:16]1.COC(=O)c1ccc(C2(NC(=O)c3cc(C(F)(F)F)cnc3N3CC(Oc4cccc(F)c4)C3)CC2)cc1>>[O:1]=[C:2]([NH:3][CH:4]1[CH2:5][CH2:6][CH2:7][CH2:8][CH2:9]1)[NH:10][CH:11]1[CH2:12][CH2:13][CH2:14][CH2:15][CH2:16]1.COC(=O)c1ccc(C2(NC(=O)c3cc(C(F)(F)F)cnc3N3CC(Oc4cccc(F)c4)C3)CC2)cc1
[CH3:2][C+:3]([CH3:4])[CH3:5].[OH2:1].NCc1ccc(N2C(=O)C(CC(=O)NCc3ccccc3F)C(=O)N(Cc3ccc(O)cc3)c3ccccc32)cc1.O=C=O>>[CH3:2][C:3]([CH3:4])=[CH2:5].[OH3+:1].NCc1ccc(N2C(=O)C(CC(=O)NCc3ccccc3F)C(=O)N(Cc3ccc(O)cc3)c3ccccc32)cc1.O=C=O
[C:1](=[NH+:2][CH:3]1[CH2:4][CH2:5][CH2:6][CH2:7][CH2:8]1)=[N:9][CH:10]1[CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1.[CH3:16][S:17][c:18]1[cH:19][cH:20][c:21](/[C:22](=[CH:23]\[CH:24]2[CH2:25][CH2:26][CH2:27][CH2:28]2)[C:29](=[O:30])[O-:31])[n:32][cH:33]1.Nc1nccs1>>[C:1]([NH:2][CH:3]1[CH2:4][CH2:5][CH2:6][CH2:7][CH2:8]1)(=[N:9][CH:10]1[CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1)[O:31][C:29](/[C:22]([c:21]1[cH:20][cH:19][c:18]([S:17][CH3:16])[cH:33][n:32]1)=[CH:23]/[CH:24]1[CH2:25][CH2:26][CH2:27][CH2:28]1)=[O:30].Nc1nccs1
[O-:1][C:2](=[NH+:3][CH:4]1[CH2:5][CH2:6][CH2:7][CH2:8][CH2:9]1)[NH:10][CH:11]1[CH2:12][CH2:13][CH2:14][CH2:15][CH2:16]1.CC[C@H](NC(=O)[C@H](C)NC(=O)Cc1cc(F)cc(F)c1)C(=O)OC>>[O:1]=[C:2]([NH:3][CH:4]1[CH2:5][CH2:6][CH2:7][CH2:8][CH2:9]1)[NH:10][CH:11]1[CH2:12][CH2:13][CH2:14][CH2:15][CH2:16]1.CC[C@H](NC(=O)[C@H](C)NC(=O)Cc1cc(F)cc(F)c1)C(=O)OC
[O-:1][C:2](=[O:3])[NH2+:4][CH2:5][C:6](=[O:7])[N:8]1[CH2:9][C@H:10]2[CH2:11][C@@H:12]1[CH2:13][N:14]2[CH2:15][c:16]1[cH:17][cH:18][c:19]([O:20][c:21]2[n:22][c:23]3[cH:24][cH:25][cH:26][cH:27][c:28]3[s:29]2)[cH:30][cH:31]1.C[C+](C)C.O>>[NH2:4][CH2:5][C:6](=[O:7])[N:8]1[CH2:9][C@H:10]2[CH2:11][C@@H:12]1[CH2:13][N:14]2[CH2:15][c:16]1[cH:17][cH:18][c:19]([O:20][c:21]2[n:22][c:23]3[cH:24][cH:25][cH:26][cH:27][c:28]3[s:29]2)[cH:30][cH:31]1.[O:1]=[C:2]=[O:3].C[C+](C)C.O
[CH3:1][CH2:2][O:3][C:4](=[O:5])[c:6]1[n:7][o:8][c:9]([C@H:10]([CH2:11][CH2:12][CH2:13][CH:14]2[CH2:15][CH2:16][CH2:17][CH2:18][CH2:19]2)[CH2:20][C:21](=[O:22])[O:23][C:24]([CH3:25])([CH3:26])[CH3:27])[n:28]1.[CH2:32]1[CH2:31][CH2:30][NH:29][CH2:33]1>>[CH3:1][CH2:2][O:3][C:4]([O-:5])([c:6]1[n:7][o:8][c:9]([C@H:10]([CH2:11][CH2:12][CH2:13][CH:14]2[CH2:15][CH2:16][CH2:17][CH2:18][CH2:19]2)[CH2:20][C:21](=[O:22])[O:23][C:24]([CH3:25])([CH3:26])[CH3:27])[n:28]1)[NH+:29]1[CH2:30][CH2:31][CH2:32][CH2:33]1
[CH3:1][O:2][C:3](=[O:4])[c:5]1[n:6][s:7][cH:8][c:9]1[NH2+:10][C:11](=[O:12])[c:13]1[cH:14][cH:15][c:16]([Cl:17])[s:18]1.[Cl-:19]>>[CH3:1][O:2][C:3](=[O:4])[c:5]1[n:6][s:7][cH:8][c:9]1[NH:10][C:11](=[O:12])[c:13]1[cH:14][cH:15][c:16]([Cl:17])[s:18]1.[ClH:19]
[CH3:1][c:2]1[cH:3][c:4]([CH3:5])[cH:6][c:7]([O:8][C:9]2=[C:10]([CH:11]([CH3:12])[CH3:13])[C:14](=[O:15])[NH:16][C:17](=[O:18])[NH+:19]2[CH2:20][C:21]([CH3:22])=[O:23])[cH:24]1.[Cl-:25]>>[CH3:1][c:2]1[cH:3][c:4]([CH3:5])[cH:6][c:7]([O:8][C:9]2=[C:10]([CH:11]([CH3:12])[CH3:13])[C:14](=[O:15])[NH:16][C:17](=[O:18])[n:19]2[CH2:20][C:21]([CH3:22])=[O:23])[cH:24]1.[ClH:25]
[CH3:1][CH2:2][CH2:3][CH2:4][C:5]([O-:6])([Cl:20])[NH+:7]([CH2:8][CH2:9][CH2:10][Cl:11])[CH2:12][CH2:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][CH2:2][CH2:3][CH2:4][C:5](=[O:6])[NH+:7]([CH2:8][CH2:9][CH2:10][Cl:11])[CH2:12][CH2:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1.[Cl-:20]
